US03988456
In chloroform (200 ml) is dissolved 2-phenylacetophenone (25.5 g) and thereto is added a solution of bromine (22 g) in chloroform (100 ml) and the mixture is stirred at room temperature for 5 hours and then allowed to stand overnight. After distilling off chloroform, to the resulting residue is added methanol. The precipitates are filtered off and the filtrate is subjected to a silica gel chromatography and eluted with chloroform. The eluates are collected and distilled to remove chloroform to give 2-bromo-2-phenylacetophenone (26 g) as an oily substance.

reactant | 2-phenylacetophenone | 25.5 g | C1(=CC=CC=C1)CC(=O)C1=CC=CC=C1 | C14H12O
reactant | bromine | 22 g | BrBr | Br2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-2-phenylacetophenone | 26 g | BrC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C14H11BrO
